data/polar.json
{"reaction_name": "Michael addition", "rsmi": "[CH:1]1([C:6](=[O:18])[O:29][CH3:10])[CH2:11][CH2:23][CH2:20][N:25]1[C:21]1=[CH:13][CH2:2][CH2:24][CH2:15][CH2:7]1.[O:3]=[N+:27]([O-:12])[c:19]1[cH:4][cH:8][c:14]([CH:22]=[CH:16][N+:17]([O-:26])=[O:28])[cH:9][cH:5]1>>[CH:1]1([C:6](=[O:18])[O:29][CH3:10])[CH2:11][CH2:23][CH2:20][N+:25]1=[C:21]1[CH2:7][CH2:15][CH2:24][CH2:2][CH:13]1[CH:22]([c:14]1[cH:8][cH:4][c:19]([N+:27](=[O:3])[O-:12])[cH:5][cH:9]1)[CH:16]=[N+:17]([O-:26])[O-:28]", "epd": [["LP-/Pi+", [25], [21, 25]], ["Pi-/Sigma+", [13, 21], [13, 22]], ["Pi-/Pi+", [22, 16], [16, 17]], ["Pi-/LP+", [17, 28], [28]]]}
{"reaction_name": "General nucleophilic 1,2-addition to a neutral carbonyl", "rsmi": "[CH:1]1([C:3](=[O:15])[O:27][CH3:5])[CH2:6][CH2:20][CH2:16][N:22]1[C:17]1=[CH:11][CH2:2][CH2:21][CH2:14][CH2:4]1.[Cl:7][C:23]1=[C:25]([Cl:18])[C:10](=[O:13])[C:9](=[O:12])[C:26]([Cl:19])=[C:24]1[Cl:8]>>[CH:1]1([C:3](=[O:15])[O:27][CH3:5])[CH2:6][CH2:20][CH2:16][N+:22]1=[C:17]1[CH2:4][CH2:14][CH2:21][CH2:2][CH:11]1[C:9]1([O-:12])[C:10](=[O:13])[C:25]([Cl:18])=[C:23]([Cl:7])[C:24]([Cl:8])=[C:26]1[Cl:19]", "epd": [["LP-/Pi+", [22], [17, 22]], ["Pi-/Sigma+", [11, 17], [11, 9]], ["Pi-/LP+", [9, 12], [12]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[cH:1]1[cH:20][cH:31][c:8]([S:36](=[O:9])(=[O:10])[CH:23]=[C:33]2[CH:6]=[CH:28][C:34](=[N+:30]([O-:26])[O-:27])[CH:29]=[CH:7]2)[cH:32][cH:21]1.[cH:2]1[cH:3][cH:16][cH:5][c:11]2[c:4]1[N+:22]([CH3:13])=[CH:15][C:14]2=[CH:12][c:19]1[cH:17][cH:24][cH:35][cH:25][cH:18]1>>[cH:1]1[cH:20][cH:31][c:8]([S:36](=[O:9])(=[O:10])[CH:23]([CH:12]([c:14]2[c:11]3[c:4]([cH:2][cH:3][cH:16][cH:5]3)[n:22]([CH3:13])[cH:15]2)[c:19]2[cH:17][cH:24][cH:35][cH:25][cH:18]2)[c:33]2[cH:6][cH:28][c:34]([N+:30](=[O:26])[O-:27])[cH:29][cH:7]2)[cH:32][cH:21]1", "epd": [["LP-/Pi+", [26], [30, 26]], ["Pi-/Pi+", [34, 30], [29, 34]], ["Pi-/Pi+", [7, 29], [33, 7]], ["Pi-/Sigma+", [23, 33], [23, 12]], ["Pi-/Pi+", [12, 14], [14, 15]], ["Pi-/LP+", [15, 22], [22]]]}
{"reaction_name": "Nucleotide deprotection sequence", "rsmi": "[P:1](=[O:2])([O-:3])([O:4][CH2:5][CH:6]([H:13])[C:7]#[N:8])[O:9][CH3:10].[O-:11][H:12]>>[P:1](=[O:2])([O-:3])([O-:4])[O:9][CH3:10].[CH2:5]=[CH:6][C:7]#[N:8].[O:11]([H:12])[H:13]", "epd": [["LP-/Sigma+", [11], [11, 13]], ["Sigma-/Pi+", [6, 13], [5, 6]], ["Sigma-/LP+", [4, 5], [4]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[cH:1]1[c:15]2[cH:14][cH:5][cH:3][cH:11][c:17]2[cH-:4][cH:16]1.[cH:2]1[cH:6][cH:12][c:10]([N+:8](=[CH2:9])[CH3:18])[cH:13][cH:7]1>>[CH:1]1=[CH:16][CH:4]([CH2:9][N:8]([c:10]2[cH:12][cH:6][cH:2][cH:7][cH:13]2)[CH3:18])[c:17]2[cH:11][cH:3][cH:5][cH:14][c:15]21", "epd": [["LP-/Sigma+", [4], [4, 9]], ["Pi-/LP+", [9, 8], [8]]]}
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[O-:8][c:19]1[cH:15][c:13](=[O:16])[n:20]([CH3:11])[c:18](=[O:10])[n:22]1[CH3:17].[O:1]=[S:5](=[O:2])([N:12]=[C:9]=[O:14])[c:23]1[cH:6][cH:3][c:21]([CH3:24])[cH:4][cH:7]1>>[O:1]=[S:5](=[O:2])([N-:12][C:9](=[O:14])[CH:15]1[C:13](=[O:16])[N:20]([CH3:11])[C:18](=[O:10])[N:22]([CH3:17])[C:19]1=[O:8])[c:23]1[cH:6][cH:3][c:21]([CH3:24])[cH:4][cH:7]1", "epd": [["LP-/Pi+", [8], [19, 8]], ["Pi-/Sigma+", [15, 19], [15, 9]], ["Pi-/LP+", [9, 12], [12]]]}
{"reaction_name": "Nucleophilic addition to terminal diazo nitrogen", "rsmi": "[CH3:2][CH:12]([CH3:3])[N+:19]1=[N:21][N:18]([CH:6]([CH3:22])[CH3:23])[C:24](=[CH2:17])[C-:7]1[C:10]([CH3:25])([CH3:26])[CH3:27].[N+:1]([C-:11]([C:4]([O:13][CH3:8])=[O:15])[C:5]([O:14][CH3:9])=[O:16])#[N:20]>>[N:1]([C-:11]([C:4]([O:13][CH3:8])=[O:15])[C:5]([O:14][CH3:9])=[O:16])=[N:20][CH2:17][c:24]1[c:7]([C:10]([CH3:25])([CH3:26])[CH3:27])[n+:19]([CH:12]([CH3:2])[CH3:3])[n:21][n:18]1[CH:6]([CH3:22])[CH3:23]", "epd": [["LP-/Pi+", [7], [24, 7]], ["Pi-/Sigma+", [17, 24], [17, 20]], ["Pi-/LP+", [20, 1], [1]]]}
{"reaction_name": "Michael addition", "rsmi": "[CH3:2][CH2:6][O:5][C:20]([CH:3]=[C:7]([CH3:22])[N:27]=[N:15][C:4](=[O:16])[NH:19][c:23]1[cH:25][cH:13][cH:24][cH:14][cH:26]1)=[O:17].[CH:1]1=[CH:8][c:9]2[cH:12][cH:11][cH:28][cH:10][c:18]2[CH:29]1[Na:21]>>[CH:1]1=[CH:8][c:9]2[cH:12][cH:11][cH:28][cH:10][c:18]2[CH:29]1[CH:3]([C:7]([CH3:22])=[N:27][N:15]=[C:4]([O-:16])[NH:19][c:23]1[cH:25][cH:13][cH:24][cH:14][cH:26]1)[C:20]([O:5][CH2:6][CH3:2])=[O:17].[Na+:21]", "epd": [["Sigma-/Sigma+", [29, 21], [29, 3]], ["Pi-/Pi+", [3, 7], [7, 27]], ["Pi-/Pi+", [27, 15], [15, 4]], ["Pi-/LP+", [4, 16], [16]]]}
